US05830868
Step 1: Boc-Tyr(OBn)-Ser(OBn)-CO2Me
To a solution of Boc-Tyr(OBn) (1.88 g, 6.50 mmol) in EtOAc (30 mL) at 0° C. was added HOBT hydrate (1.19 g, 7.80 mmol) followed by DCC (1.61 g, 7.80 mmol). A solution of Ser(OBn)-CO2Me.TFA (2.1 g, 6.50 mmol) in EtOAc (20 mL) was added followed by Et3N (1.09 mL, 7.80 mmol). The mixture was allowed to warm to room temperature and stirred overnight. The mixture was filtered, diluted with EtOAc, and washed twice with saturated aqueous NaHCO3, brine, dried over MgSO4, and concentrated. Flash chromatography (40% EtOAc/hexane) gave 2.67 g (73%) of the title compound as a white solid, mp 81°-84° C.

reactant | Boc-Tyr(OBn) | 6.50 mmol, 1.88 g | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C21H25NO5
reactant | HOBT hydrate | 7.80 mmol, 1.19 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | DCC | 7.80 mmol, 1.61 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Ser(OBn)-CO2Me.TFA | 6.50 mmol, 2.1 g | N[C@@H](COCC1=CC=CC=C1)C(=O)C(=O)OC.FC(F)(F)C(=O)O
reactant | Et3N | 7.80 mmol, 1.09 mL | CCN(CC)CC | C6H15N
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | Boc-Tyr(OBn)-Ser(OBn)-CO2Me | 2.67 g, 73% | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)C(=O)OC)C(=O)OC(C)(C)C | C33H38N2O8
